US05378689
(2R, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2,N-dimethylhexanamide
A solution of 500 mg (1.04 mmole) of (3R, 5S)-5-{(1S)-1-[N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-2-cyclohexylethyl}-3-methyldihydrofuran-2(3H)-one (prepared as described in Preparation 25) in 2.5 ml of a 40% by volume methanolic solution of methylamine was allowed to stand at room temperature for 1 hour. At the end of this time, any excess of the methylamine and the methanol were removed by distillation under reduced pressure. The resulting residue was recrystallized from ethyl acetate to afford 405 mg of the title compound as white crystals, melting at 158°-160° C.

reactant | (3R, 5S)-5-{(1S)-1-[N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-2-cyclohexylethyl}-3-methyldihydrofuran-2(3H)-one | 1.04 mmole, 500 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C24H37N3O5S
reactant | methylamine | CN | CH5N
product | (2R, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2,N-dimethylhexanamide | 405 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NC)C)O)CC1CCCCC1 | C25H42N4O5S
